* Z:\mnt\design.r\spice\examples\3552.asc
V1 IN 0 5
L1 N004 OUT1 2.2µ
R1 OUT1 N006 604K
R2 N006 0 301K
C1 OUT1 N006 33p
C2 OUT1 0 10µ
XU1 N001 BAT NC_01 NC_02 N003 MP_03 BAT N005 N006 BAT BAT N004 N002 IN NC_04 NC_05 0 LTC3552
R3 N001 0 619
R4 N002 0 1.24K
L2 N003 OUT2 4.7µ
R5 OUT2 N005 887K
R6 N005 0 280K
C3 OUT2 N005 68p
C4 OUT2 0 4.7µ
V2 BAT 0 4
Rload1 OUT1 0 2.25
Rload2 OUT2 0 6.25
.tran .5m startup
.lib LTC3552.sub
.backanno
.end
